US07939661B2
Step 2: (6-Morpholin-4-yl-pyridin-3-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(6-morpholin-4-yl-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.31 g, 3.61 mmol) in dioxane (20 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 263.4 [M+H]+.

reactant | 4-(6-morpholin-4-yl-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.61 mmol, 1.31 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=NC(=CC1)N1CCOCC1 | C19H30N4O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (6-Morpholin-4-yl-pyridin-3-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.N1(CCOCC1)C1=CC=C(C=N1)NC1CCNCC1 | InChI=1S/C14H22N4O.2ClH/c1-2-14(18-7-9-19-10-8-18)16-11-13(1)17-12-3-5-15-6-4-12;;/h1-2,11-12,15,17H,3-10H2;2*1H
